US07247646B2
To a solution containing 7-hydroxy-4-{(4-(2-pyrrolidinylethoxy)phenyl)methyl}-3-(4-(trifluoromethyl)phenyl)-2H-chromen-2-one (0.550 g.) in tetrahydrofuran (6 mL) and methylene chloride (6 mL) was added allyl alcohol (0.226 mL) and triphenylphosphine (0.641 g.). Diisopropylazodicarboxylate (0.437 mL) was then added dropwise to the solution. The resultant mixture was allowed to stir for about one hour (or until the starting material was consumed). The solution was concentrated under reduced pressure and extracted with methylene chloride (3×) and water. The organic layers were dried over magnesium sulfate, the magnesium sulfate was filtered and the solvent was concentrated under reduced pressure to provide an orange oil. The oil was purified via silica gel chromatography (6–10% methanol/methylene chloride) to afford 7-prop-2-enyloxy-4-{(4-(2-pyrrolidinylethoxy)phenyl)methyl}-3-(4-(trifluoromethyl) Phenyl)-2H-chromen-2-one (0.245 g., 40% yield). MS (m/z) 550 (M+1)+.

reactant | 7-hydroxy-4-{(4-(2-pyrrolidinylethoxy)phenyl)methyl}-3-(4-(trifluoromethyl)phenyl)-2H-chromen-2-one | 0.550 g | OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1 | C29H26F3NO4
reactant | allyl alcohol | 0.226 mL | C(C=C)O | C3H6O
reactant | triphenylphosphine | 0.641 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropylazodicarboxylate | 0.437 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 7-prop-2-enyloxy-4-{(4-(2-pyrrolidinylethoxy)phenyl)methyl}-3-(4-(trifluoromethyl) Phenyl)-2H-chromen-2-one | 0.245 g, 40% yield | C(C=C)OC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OCCN1CCCC1 | C32H30F3NO4
